US04743614
A solution of methyl (2S,3R)-3-[[(1S)-1-methoxycarbonyl-2-(3-indolyl)ethyl]amino]-2-tritylaminobutyrate (600 mg) in a mixture of methanol (10 ml) and 1N hydrochloric acid (2 ml) was stirred for 1 hour at room temperature and methanol was evaporated in vacuo. The residual aqueous solution was washed with chloroform and diluted with water (15 ml). To the solution was added sodium hydroxide (500 mg) and the mixture was stirred overnight at room temperature. The mixture was adjusted to pH 3 with 1N hydrochloric acid and the solution was subjected to a column of Dowex 50W x 8 (H+, 20 ml). The column was washed with water and the elution was carried out with 1.4% aqueous ammonia. The object fractions were collected and lyophilized to give (2S,3R)-2-amino-3-[[(1S)-1-carboxy-2-(3-indolyl)ethyl]amino]butyric acid (260 mg) as a white powder.

reactant | methyl (2S,3R)-3-[[(1S)-1-methoxycarbonyl-2-(3-indolyl)ethyl]amino]-2-tritylaminobutyrate | 600 mg | COC(=O)[C@H](CC1=CNC2=CC=CC=C12)N[C@@H]([C@@H](C(=O)OC)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C36H37N3O4
solvent | methanol | 10 ml | CO | CH4O
solvent | hydrochloric acid | 1N, 2 ml | Cl | ClH
product | (2S,3R)-2-amino-3-[[(1S)-1-carboxy-2-(3-indolyl)ethyl]amino]butyric acid | 260 mg | N[C@H](C(=O)O)[C@@H](C)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)O | C15H19N3O4
